US04655973
3,7,11,15-Tetramethyl-2,4,6,14-hexadecatetraenoic acid
8.0 g. of the ethyl 3,7,11,15-tetramethyl-2,4,6,14-hexadecatetraenoate obtained in the previous. Example 1 was added to a solution of 3.2 g. of potassium hydroxide in 20 ml. of isopropyl alcohol, and the mixture was stirred at 50° C. for 1 hour. The reaction liquid was then poured into ice-water, made acidic by addition of hydrochloric acid, and extracted with 50 ml. of diethyl ether. The ether phase was washed with water, dried over magnesium sulfate, and concentrated to give 7. g. of an oil. The oil was dissolved in 40 ml. of n-hexane and crystallized at -20° C. to give 3.1 g. of the desired product as white crystals.

reactant | ethyl 3,7,11,15-tetramethyl-2,4,6,14-hexadecatetraenoate | CC(=CC(=O)OCC)C=CC=C(CCCC(CCC=C(C)C)C)C | C22H36O2
reactant | potassium hydroxide | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | isopropyl alcohol | C(C)(C)O | C3H8O
product | 3,7,11,15-Tetramethyl-2,4,6,14-hexadecatetraenoic acid | CC(=CC(=O)O)C=CC=C(CCCC(CCC=C(C)C)C)C | C20H32O2
